US08202999B2
3-Iodo-4-methyl benzoic acid methyl ester was treated with hydrazine to form 3-Iodo-4-methyl benzoic acid hydrazide. 2-(3-Iodo-4-methyl-phenyl)-[1,3,4]oxadiazole was prepared from 3-iodo-4-methyl benzoic acid hydrazide according to a method analogous to that described in J. of Medicinal Chemistry (2001), 44(8): 1268-85, the entire teachings of which are incorporated herein by reference. Compounds 46, 68, 69, 70, and 71 were prepared via an amide coupling reaction analogous to that described in step A of the synthesis of Compound 1, followed by a Suzuki coupling reaction analogous to that described in step B of the synthesis of Compound 1. The amide coupling reaction and Suzuki coupling reaction are shown for Compound 69 in Scheme XX below:

reactant | 3-Iodo-4-methyl benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C)I)=O | C9H9IO2
reactant | hydrazine | NN | H4N2
product | 3-Iodo-4-methyl benzoic acid hydrazide | IC=1C=C(C(=O)NN)C=CC1C | C8H9IN2O
